US07282588B2
Preparation of N-ethyl-N′-[4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea
Following the procedure described in Example 48 4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline and ethyl isocyanate provided the title compound. ESMS [M+H]+: 534.4

reactant | 4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCCC2)C2=CC=C(N)C=C2 | C29H30N6
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | N-ethyl-N′-[4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea | C(C)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCCC2)CC | C32H35N7O
